US07238808B2
3-[7-Methyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 3-ethynyl-7-methyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.12) (75 mg, 0.25 mmol) and 3-bromo-benzenesulfonamide (59 mg, 0.25 mmol) according to general procedure II. Obtained as a yellow solid (48 mg, 42%). MS (ISN) 454.9 [(M−H)−]; mp 214–216° C.

reactant | 3-ethynyl-7-methyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 75 mg | C(#C)C=1C=NN2C1N=C(C=C2C)C2=CC=C(C=C2)C(F)(F)F | C16H10F3N3
reactant | 3-bromo-benzenesulfonamide | 0.25 mmol, 59 mg | BrC=1C=C(C=CC1)S(=O)(=O)N | C6H6BrNO2S
product | 3-[7-Methyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide | CC1=CC(=NC=2N1N=CC2C#CC=2C=C(C=CC2)S(=O)(=O)N)C2=CC=C(C=C2)C(F)(F)F | C22H15F3N4O2S
